Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
cephalexin
 
Attending: ___.
 
Chief Complaint:
Left breast cancer
 
Major Surgical or Invasive Procedure:
Bilateral mastectomies and bilateral sentinel lymph node 
biopsies
 
History of Present Illness:
___ is a ___ year old woman with left breast 
IDC, grade 3, ER 40%, HER2 negative by FISH last seen on 
___ when shared decision making was for neoadjuvant 
chemotherapy to potentially reduce the tumor in preparation for 
mastectomy. Since that time, she has been closely followed by 
Dr. ___.  Chemotherapy with ddAC was initiated on ___ and 
weekly taxol was initiated on ___. When she was last seen 
by Dr. ___ on ___, the left breast mass was felt to have 
increased in size. This was confirmed by diagnostic mammogram 
and US imaging. Shared decision making was for bilateral total 
mastectomies with bilateral sentinel node biopsies
 
Past Medical History:
1. Hot flashes
2. Anxiety
3. Chronic HA
4. HTN
5. Vitamin D deficiency
6. Hx of cholelithiasis
 
Social History:
___
Family History:
Maternal grandmother may have had ovarian or uterine ca, age 
unknown.
 
Physical Exam:
Vitals: 24 HR Data (last updated ___ @ 841)
    Temp: 98.6 (Tm 98.6), BP: 102/70 (102-124/70-82), HR: 60 
(60-86), RR: 18 (___), O2 sat: 96% (95-99), O2 delivery: RA 
(1l Nc-2L)
Gen: NAD, AAOx3
CV: RRR
Resp: Unlabored breathing, CTAB
Abdomen: Soft, NTND
Ext: WWP
Wound: Transverse mastectomy incisions CDI b/l, appropriately 
tender (L>R), mild erythema b/l
Drains: ___ x2 draining SS fluid
 
Pertinent Results:
___ 07:20AM BLOOD WBC-7.8 RBC-3.11* Hgb-9.0* Hct-28.2* 
MCV-91 MCH-28.9 MCHC-31.9* RDW-13.9 RDWSD-46.4* Plt ___
 
Brief Hospital Course:
Ms. ___ presented to pre-op holding at ___ 
on ___ for bilateral total mastectomies and bilateral 
sentinel lymph node biopsies. She tolerated the procedure well 
without complications (Please see operative note for further 
details). After a brief and uneventful stay in the PACU, the 
patient was transferred to the floor for further post-operative 
management. She progressed as expected with appropriate 
tenderness at the incision sites. On the morning after surgery, 
her pain was adequately controlled. She was tolerating a regular 
diet  She was discharged in stable condition.

Neuro: Pain was well controlled on Tylenol and PRN oxycodone.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was advanced to and tolerated a regular diet 
after the procedure. She had a single episode of emesis on the 
night after her surgery, but recovered fully by the morning of 
POD1. Patient's intake and output were closely monitored
GU: No Foley catheter was used for surgery or during admission. 
Urine output was monitored as indicated. At time of discharge, 
the patient was voiding without difficulty.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever, of which there were none.
Heme: The patient had blood levels checked during their hospital 
course to monitor for signs of bleeding. The patient received 
___ dyne boots and she was encouraged to get up and ambulate as 
early as possible. The patient is not being discharged with DVT 
chemoprophylaxis. 

On ___ the patient was discharged to home with drains in 
place (two ___ drains, one in each breast). At discharge, she 
was tolerating a regular diet, passing flatus, voiding, and 
ambulating independently. She will follow-up in the clinic in 
___ weeks. This information was communicated to the patient 
directly prior to discharge.
 
Medications on Admission:
LIDOCAINE-PRILOCAINE - lidocaine-prilocaine 2.5 %-2.5 % topical
cream. apply to port as needed -  (Not Taking as Prescribed)
OMEPRAZOLE - omeprazole 40 mg capsule, delayed release. 1 (One)
capsule(s) by mouth twice a day
OTHER - other  . 1:1:1 viscous lidocaine:benadryl:nystatin swish
and swallow every 6 hours as needed
 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H 
RX *acetaminophen 650 mg 1 tablet(s) by mouth four times a day 
Disp #*30 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*20 Capsule Refills:*0 
3.  Ondansetron 4 mg PO Q8H:PRN Nausea/Vomiting - First Line 
RX *ondansetron 4 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*3 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Order is for floor status
RX *oxycodone 5 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*12 Tablet Refills:*0 
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line 
RX *sennosides [senna] 8.6 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
6.  Omeprazole 40 mg PO DAILY  
7.  Lidocaine-Prilocaine 1 Appl TP ONCE Chemotherapy port access 
 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left breast cancer
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Personal Care:  
1. You may keep your incisions open to air or covered with a 
clean, sterile gauze that you change daily.
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. Your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
5. You may wear a surgical bra or soft, loose camisole for 
comfort.  
6. You may shower daily with assistance as needed. Be sure to 
secure your drains so they don't hang down loosely and pull out.
7. The Dermabond skin glue will begin to flake off in about ___ 
days.  

Activity:  
1. You may resume your regular diet.  
2. Walk several times a day.  
3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery. 

Medications:  
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .  
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.  
3. Take prescription pain medications for pain not relieved by 
Tylenol.  
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  

Call the office IMMEDIATELY if you have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if:  
* If you are vomiting and cannot keep in fluids or your 
medications.  
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
* Any serious change in your symptoms, or any new symptoms that 
concern you.  

DRAIN DISCHARGE INSTRUCTIONS  
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.
 
Followup Instructions:
___